US06635638B2
1-(3,4-Methylenedioxvphenyl)-2-(pyrimidin-2-yl)-2,3,4,9-tetrahydro-1H-β-carboline
1-(3,4-methylenedioxyphenyl)-2,3,4,9-tetrahydro-1H-β-carboline (2.3 g, 8.0 mmol) (prepared according to the process as disclosed in WO97/43287, Intermediate 7, page 24) and 2-chloropyrimidine (0.914 g, 8.0 mmol) were stirred in anhydrous DMF (15 mL) at 140° C. for 24 h. The reaction mixture was diluted with ethyl acetate (100 mL) and washed with saturated aqueous NH4Cl solution (100 mL). The aqueous layer was extracted with ethyl acetate (2×50 mL). The combined organic layers were washed with brine (2×80 mL) and dried with MgSO4. The solvents were evaporated and the product was isolated by column chromatography (silica gel, EtOAc:Hexane=1:9 ) as a yellowish solid.

reactant | 1-(3,4-methylenedioxyphenyl)-2,3,4,9-tetrahydro-1H-β-carboline | 8.0 mmol, 2.3 g | C1OC=2C=C(C=CC2O1)C1NCCC=2C3=CC=CC=C3NC12 | C18H16N2O2
reactant | 2-chloropyrimidine | 8.0 mmol, 0.914 g | ClC1=NC=CC=N1 | C4H3ClN2
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 1-(3,4-Methylenedioxvphenyl)-2-(pyrimidin-2-yl)-2,3,4,9-tetrahydro-1H-β-carboline | C1OC=2C=C(C=CC2O1)C1N(CCC=2C3=CC=CC=C3NC12)C1=NC=CC=N1 | C22H18N4O2
